### PR TITLE
feat: add sshiftRight/shiftLeft_*_distrib

### PR DESCRIPTION
**Pull request by tobiasgrosser**

### CODE REVIEW

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -651,6 +660,27 @@ theorem zero_shiftLeft (n : Nat) : 0#w <<< n = 0#w := by
   cases h₁ : decide (i < m) <;> cases h₂ : decide (n ≤ i) <;> cases h₃ : decide (i < n)
   all_goals { simp_all <;> omega }
 
+theorem shiftLeft_xor_distrib (x y : BitVec w) (n : Nat) :
+    (x ^^^ y) <<< n = (x <<< n) ^^^ (y <<< n) := by
+  ext
+  simp
+  rename_i i
+  by_cases h : (i < n) <;> simp [h]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:668]:
```suggestion
  rename_i i
  by_cases h : (i < n) <;> simp [h]
```
Anyone has an idea how

**Comment by tobiasgrosser** [comment]
Merged into lean in https://github.com/leanprover/lean4/pull/4951.

**Comment by tobiasgrosser** [comment]
Merged into lean in https://github.com/leanprover/lean4/pull/4951.
